US04493842
To 30 ml of acetonitrile were added 0.75 g of imidazole and 1.2 g of triethylamine, and 3.0 g of α-(p-bromobenzyl)-tert-butyl-acetic acid chloride was then added dropwise at room temperature. Thereafter, the mixture was stirred at room temperature for 6 hours, poured into 300 ml of water and extracted with 300 ml of chloroform. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The oily product obtained was recrystallized from diisopropyl ether to obtain 2.39 g of N-[α-(p-bromobenzyl)-tert-butylacetyl]imidazole (compound No. 4). m.p. 101°-102° C.

reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | imidazole | 0.75 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | α-(p-bromobenzyl)-tert-butyl-acetic acid chloride | 3.0 g | BrC1=CC=C(CC(C(=O)Cl)C(C)(C)C)C=C1 | C13H16BrClO
solvent | water | 300 ml | O | H2O
product | N-[α-(p-bromobenzyl)-tert-butylacetyl]imidazole | 2.39 g | BrC1=CC=C(CC(C(=O)N2C=NC=C2)C(C)(C)C)C=C1 | C16H19BrN2O
